US08106045B2
(R)-(+)-3-Aminotetrahydrofuran toluene-4-sulfonate (2.0 g, 7.7 mmol) was added to a suspension of (2S)-2-(4-bromophenyl)-4-((1R)-1-phenylethyl)morpholine (2.4 g, 6.9 mmol), palladium acetate (65 mg, 0.29 mmol), 2-(di-t-butylphosphino)biphenyl (170 mg, 0.57 mmol), and sodium tert-butoxide (3.4 g, 35.4 mmol) in tert-butanol (50 ml) at room temperature. After heating at 90° C. for 6 hours, the resulting suspension was passed through a Celite column. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel chromatography eluting 5-10% methanol in chloroform to afford 4-((1R)-1-phenylethyl)-(2S)-2-(4-(N-((3R)-tetrahydrofuran-3-yl)amino)phenyl)morpholine (1.3 g, 53%) as white crystals.

reactant | (R)-(+)-3-Aminotetrahydrofuran toluene-4-sulfonate | 7.7 mmol, 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H]1COCC1
reactant | (2S)-2-(4-bromophenyl)-4-((1R)-1-phenylethyl)morpholine | 6.9 mmol, 2.4 g | BrC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C18H20BrNO
reactant | 2-(di-t-butylphosphino)biphenyl | 0.57 mmol, 170 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 35.4 mmol, 3.4 g | CC(C)([O-])C.[Na+]
solvent | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
catalyst | palladium acetate | 0.29 mmol, 65 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-((1R)-1-phenylethyl)-(2S)-2-(4-(N-((3R)-tetrahydrofuran-3-yl)amino)phenyl)morpholine | 1.3 g, 53% | C1(=CC=CC=C1)[C@@H](C)N1C[C@@H](OCC1)C1=CC=C(C=C1)N[C@H]1COCC1 | C22H28N2O2
